US06613942B1
1,2-Dibromoethane (37 mL, 0.43 moles) was added to a mixture of 5-bromovanillin (10 g, 43 mmoles) and potassium carbonate (30 g, 216 mmoles) in DMF (150 ml) and the resulting mixture was stirred vigorously at room temperature for 16 hours followed by vigorously stirring at 60° C. for 16 hours. The cooled mixture was poured into water (1 L) and extracted with ethyl acetate (3×250 mL). The combined organic phases were washed with saturated sodium chloride (300 mL), dried over MgSO4 and evaporated in vacuo to afford 13.7 g (94%) of 4-(2-bromoethoxy)-3-bromo-5-methoxybenzaldehyde.

reactant | 1,2-Dibromoethane | 0.43 moles, 37 mL | BrCCBr | C2H4Br2
reactant | 5-bromovanillin | 43 mmoles, 10 g | BrC=1C(=C(C=C(C=O)C1)OC)O | C8H7BrO3
reactant | potassium carbonate | 216 mmoles, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 L | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-(2-bromoethoxy)-3-bromo-5-methoxybenzaldehyde | 13.7 g, 94% | BrCCOC1=C(C=C(C=O)C=C1OC)Br | C10H10Br2O3
